US06011174
(2) (2RS,3SR)-2-acetoxy-3-(3-hydroxy-4-phenoxyphenyl)-5-phenylpentane
200 mg of (2RS,3SR)-2-acetoxy-3-(3-benzyloxy-4-phenoxyphenyl)-5-phenylpentane was dissolved in 5 ml of methylene chloride, and 0.2 ml of boron tribromide was added under cooling to -78° C., followed by stirring at the same temperature for 3 hours. Then, the temperature was gradually brought to 0° C. The reaction solution was poured into a saturated sodium hydrogen carbonate aqueous solution and extracted with ethyl acetate and then washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The drying agent was filtered off, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→5/1), to obtain 161 mg (yield: 85%) of the above identified compound as a colorless oily substance.

reactant | (2RS,3SR)-2-acetoxy-3-(3-benzyloxy-4-phenoxyphenyl)-5-phenylpentane | 200 mg | C(C)(=O)OC(C)C(CCC1=CC=CC=C1)C1=CC(=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H32O4
reactant | boron tribromide | 0.2 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (2RS,3SR)-2-acetoxy-3-(3-hydroxy-4-phenoxyphenyl)-5-phenylpentane | yield: 85% | C(C)(=O)OC(C)C(CCC1=CC=CC=C1)C1=CC(=C(C=C1)OC1=CC=CC=C1)O | C25H26O4
